US06294537B1
A) 1-Benzyl-4-(N-ethylamino)-4-phenylpiperidine
A solution of 5 g of 4-acetamido-1-benzyl-4-phenylpiperidine in 50 ml of THF is added to a suspension of 1.5 g of lithium aluminum hydride in 20 ml of THF and the mixture is refluxed for 3 hours. After cooling, a solution of 1 ml of concentrated NaOH in 8 ml of water is added, the inorganic salts are filtered and the filtrate is evaporated under vacuum. The oil obtained is dissolved in 50 ml of THF, this solution is added to a suspension of 1.5 ml of lithium aluminum hydride in 20 ml of THF and the mixture is refluxed for 1 hour. The reaction mixture is hydrolyzed by addition of a solution of 0.5 ml of concentrated NaOH in 6 ml of water, the inorganic salts filtered and the filtrate evaporated under vacuum. 4.8 g of the expected product are obtained, which product is used as it is in the next stage.

reactant | 4-acetamido-1-benzyl-4-phenylpiperidine | 5 g | C(C)(=O)NC1(CCN(CC1)CC1=CC=CC=C1)C1=CC=CC=C1 | C20H24N2O
reactant | lithium aluminum hydride | 1.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 1 ml | [OH-].[Na+]
reactant | lithium aluminum hydride | 1.5 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 0.5 ml | [OH-].[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 8 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 6 ml | O | H2O
product | 1-Benzyl-4-(N-ethylamino)-4-phenylpiperidine | 4.8 g | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC=CC=C1)NCC | C20H26N2
